US06384065B1
In 56 ml of methylene chloride was dissolved 18.50 g of tert-butyl 2-(2-ethoxy-2-oxoethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decane-8-carboxylate. After adding 56 ml of trifluoroacetic acid at 0-5° C., the resulting mixture was stirred at the same temperature as above for 30 minutes and then at ambient temperature for 5 hours. The solvent was distilled off under reduced pressure, the residue was poured into a mixture of ice water and ethyl acetate, pH was adjusted to 8.0 with saturated aqueous solution of sodium hydrogen carbonate, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Thus, 7.26 g of ethyl 2-(3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-2-yl)-acetate was obtained as a yellow oily product.

reactant | tert-butyl 2-(2-ethoxy-2-oxoethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decane-8-carboxylate | 18.50 g | C(C)OC(CC1SC2(N(C1=O)CCC1=CC=CC=C1)CCN(CC2)C(=O)OC(C)(C)C)=O | C24H34N2O5S
reactant | trifluoroacetic acid | 56 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 56 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-2-yl)-acetate | 7.26 g | O=C1C(SC2(N1CCC1=CC=CC=C1)CCNCC2)CC(=O)OCC | C19H26N2O3S
